US04474977
1-Acetyloxy-1-(4-isopropylthiophenyl)-2-n-octylaminobutane hydrochloride
To 20 ml of acetonitrile, 5 gr (13 mmol) of 1-(4-isopropylthiophenyl)-2-n-octylamino-1-butanol hydrochloride and 5.3 g (52 mmol) of acetic anhydride are added successively. The mixture is refluxed for 2.5 hours. When cooling, it abandons a white solid. The latter is filtered off and twice recrystallised from acetonitrile.

reactant | 1-(4-isopropylthiophenyl)-2-n-octylamino-1-butanol hydrochloride | 13 mmol, 5 gr | Cl.C(C)(C)SC1=CC=C(C=C1)C(C(CC)NCCCCCCCC)O
reactant | acetic anhydride | 52 mmol, 5.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Acetyloxy-1-(4-isopropylthiophenyl)-2-n-octylaminobutane hydrochloride | Cl.C(C)(=O)OC(C(CC)NCCCCCCCC)C1=CC=C(C=C1)SC(C)C | InChI=1S/C23H39NO2S.ClH/c1-6-8-9-10-11-12-17-24-22(7-2)23(26-19(5)25)20-13-15-21(16-14-20)27-18(3)4;/h13-16,18,22-24H,6-12,17H2,1-5H3;1H
